US08614327B2
To a refluxing solution of 2-isopropyl-5-methyl-phenol (1.3 g, 8.65 mmol) and ammonium formate (1.3 g, 20.62 mmol) in ethanol (50 mL) was added 10% Pd/C (887 mg, 8.33 mmol). The mixture was refluxed for an additional 5 minutes, cooled and filtered through a pad of celite. The solvent was removed by evaporation to give 5-amino-2-isopropylphenol which was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ 8.70 (s, 1H), 6.71 (d, J=8.1 Hz, 1H), 6.04 (d, J=2.2 Hz, 1H), 5.97 (dd, J=8.1, 2.2 Hz, 1H), 4.65 (s, 2H), 3.08-2.94 (m, 1H), 1.07 (d, J=6.9 Hz, 6H).

reactant | 2-isopropyl-5-methyl-phenol | 8.65 mmol, 1.3 g | C(C)(C)C1=C(C=C(C=C1)C)O | C10H14O
reactant | ammonium formate | 20.62 mmol, 1.3 g | C(=O)[O-].[NH4+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | 8.33 mmol, 887 mg | [Pd] | Pd
product | 5-amino-2-isopropylphenol | NC=1C=CC(=C(C1)O)C(C)C | C9H13NO
